US07875645B2
A mixture of 1.30 g (8 mmol) (4-fluoro-2,6-dimethyl-phenyl)-acetonitrile, 3.83 g (4.27 ml, 64 mmol) ethylene diamine and 0.128 g (4 mmol) sulfur in a pressurized glass tube was heated under microwave irradiation to 200° C. for 20 min. The cooled reaction mixture was poured onto water, extracted with methylene chloride, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated. Purification of the residue by flash-chromatography over silica gel with a ethyl acetate/methanol gradient containing 1% conc. ammonia provided 2-(4-fluoro-2,6-dimethyl-benzyl)-4,5-dihydro-1H-imidazole as light yellow solid: MS (EI): 206.1 ((M+.), 100%).

reactant | (4-fluoro-2,6-dimethyl-phenyl)-acetonitrile | 8 mmol, 1.30 g | FC1=CC(=C(C(=C1)C)CC#N)C | C10H10FN
reactant | ethylene diamine | 64 mmol, 4.27 ml, 3.83 g | C(CN)N | C2H8N2
reactant | sulfur | 4 mmol, 0.128 g | [S] | S
product | 2-(4-fluoro-2,6-dimethyl-benzyl)-4,5-dihydro-1H-imidazole | FC1=CC(=C(CC=2NCCN2)C(=C1)C)C | C12H15FN2
